Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Diarrhea 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ with history of JAK2+
myeloproliferative disorder, AML s/p alloHSCT in ___ c/b GVHD
(pulmonary) on prednisone, MI s/p CABG, atrial fibrillation,
HFrEF (EF 35%), and thoracic aortic aneurysm who presents with
diarrhea.

Patient reports watery non-bloody diarrhea for six days which 
has
been getting worse. She reports mild abdominal pain and bloating
as well as generalized weakness. She denies any fevers or 
chills.
She denies any recent travel or new/raw food. She denies any 
sick
contacts. Patient with recently admitted in ___ for
cellulitis and was discharged on clindamycin with PO vancomycin
prophylaxis which she finished several weeks ago. About one week
ago she had metformin increased from 500mg BID to ___ BID.

On arrival to the ED, initial vitals were 97.5 84 109/54 16 96%
RA. Exam was notable for distended and mildly tender abdomen.
Labs were notable for WBC 11.2, H/H 11.7/38.6, Plt 501, Na 137, 
K
5.3, BUN/Cr ___, and lactate 4.8 -> 4.6 -> 2.6. Blood culture
was sent. No imaging obtained. Patient was given 1L LR. BMT was
consulted. Prior to transfer vitals were 98.1 74 96/50 16 94% 
RA.

On arrival to the floor, patient reports mild dizziness. She
denies any current pain. She denies fevers/chills, night sweats,
headache, vision changes, weakness/numbness, shortness of 
breath,
cough, hemoptysis, chest pain, palpitations, abdominal pain,
nausea/vomiting, hematemesis, hematochezia/melena, dysuria,
hematuria, and new rashes.

 
Past Medical History:
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- Repeat bone marrow biopsy showed acute erythroleukemia  
- Admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- Post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (___-LAD) ___  
- Complicated by GVHD of the skin and lungs

PAST MEDICAL HISTORY:
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (___-LAD) 
___
- Afib on Xarelto
- Diverticulitis, hx of perforated diverticulum ___ course 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___
- CHF with EF 40-45%
- Hypertension
- Hypercholesterolemia
- GERD
- Type II Diabetes Mellitus
- Diverticulosis  
- Occasional Bronchospasm
- History of SVC clot ___ PORT (s/p course of lovenox)
- History of C.Diff ___ & ___
- VRE
- Shingles
- Asthma
- Basal Cell Carcinoma s/p electrodessication and curettage on  
___
- s/p tonsillectomy at the age of ___
- D&C for question of some polyps back in ___
- Hospitalization for pneumonia ___ - ___
- Adrenal Insufficiency

 
Social History:
___
Family History:
The patient's mother with a history of stroke.
Both of her maternal and paternal grandmothers also had a 
history
of CVA. Father with history of colon ___. No other known
history of cancer in the family. No known blood disorders. Has a
sister with ___. She has 2 sisters, the other sister 
with
hypertension.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 97.5, BP 143/73, HR 80, RR 20, O2 sat 94% RA.
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes

DISCHARGE PHYSICAL EXAM 
VS 24 HR Data (last updated ___ @ 1350)
    Temp: 98.2 (Tm 98.2), BP: 108/55 (107-120/53-62), HR: 67 
(62-72), RR: 18, O2 sat: 93% (93-94), O2 delivery: RA  ENERAL: 
Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: irregular rhythm, normal s1/s2, II/IV systolic murmur
best heard at apex 
LUNG: Breathing comfortably on room air, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, +BS
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS 
===============
___ 11:50PM BLOOD WBC-11.2* RBC-4.39 Hgb-11.7 Hct-38.6 
MCV-88 MCH-26.7 MCHC-30.3* RDW-19.5* RDWSD-60.5* Plt ___
___ 11:50PM BLOOD Neuts-71.6* Lymphs-18.9* Monos-8.0 
Eos-0.2* Baso-0.5 NRBC-0.6* Im ___ AbsNeut-8.03* 
AbsLymp-2.12 AbsMono-0.90* AbsEos-0.02* AbsBaso-0.06
___ 11:50PM BLOOD Glucose-295* UreaN-14 Creat-1.1 Na-137 
K-5.3 Cl-102 HCO3-18* AnGap-17
___ 11:50PM BLOOD ALT-20 AST-14 AlkPhos-61 TotBili-0.3
___ 11:50PM BLOOD Calcium-9.1 Phos-2.9 Mg-1.7

DISCHARGE LABS
==============
___ 09:40AM BLOOD WBC-13.2* RBC-3.96 Hgb-10.5* Hct-35.2 
MCV-89 MCH-26.5 MCHC-29.8* RDW-19.5* RDWSD-62.6* Plt ___
___ 09:40AM BLOOD Glucose-148* UreaN-11 Creat-1.0 Na-144 
K-4.3 Cl-105 HCO3-24 AnGap-15

MICRO 
=====
Stool O&P:  Pending 
Stool Culture: Pending 
C diff: Negative 
Blood culture: NGTD 

IMAGING 
========
None 

 
Brief Hospital Course:
Ms. ___ is a ___ with history of JAK2+ 
myeloproliferative disorder, AML s/p alloHSCT in ___ c/b GVHD 
(pulmonary) on prednisone, MI s/p CABG, atrial fibrillation, 
HFrEF (EF 35%), and thoracic aortic aneurysm who presents with 
diarrhea.

# Diarrhea: Differential included infectious (C. diff, bacterial 
or viral gastroenteritis) vs. diverticulitis vs. less likely 
GVHD. She had benign abdominal exam and did not have abdominal 
imaging. She was given fluids and her metformin was held on 
admission. Diarrhea improved and she was able to tolerate 
regular diet without issue. Her lactate was initially elevated 
but improved with fluid likely d/t hypovolemia iso diarrhea. 
Initially felt she was high risk for C diff given recent 
antibiotics but was on vancomycin prophylaxis. C diff was 
negative, noro negative. Stool culture and O&P pending at time 
of discharge. Felt that her symptoms were most likely due to 
side effect of metformin. Per patient she may have had similar 
side-effect years before on higher doses of metformin. Patient 
should NOT increase metformin higher than 500mg BID in the 
future. 

# JAK2-Positive Myeloproliferative Disorder
# AML s/p Allogeneic Stem Cell Transplant complicated by GVHD: 
Home acyclovir and hydrea, prednisone, and azithromycin and 
pulmonary medications were continued without issue. 

# CAD
# Systolic CHF: home asa, statin, and metoprolol were continued 

# T2DM: Home metformin was held during admission. She was 
discharged on reduced dose as likely higher dose causing 
presenting symptoms. She will follow up with PCP for management 
of medications. 

# Atrial Fibrillation: 
- Continue on metoprolol (will fractionate to 25mg BID)
- Continue home rivaroxaban

# Hypothyroidism
- Continue home levothyroxine

TRANSITIONAL ISSUES: 
================================= 
- New Meds: none 
- Stopped/Held Meds: none 
- Changed Meds: Metformin dose reduced to 500mg BID 
[] Follow up blood sugar control 
[] Consider adding additional medication for blood sugar 
control. 
[] Patient should NOT be on doses of metformin greater than 
500mg BID 
[] Consider starting ACE ___ for HFrEF 

# CODE: Full (confirmed)
# CONTACT: HCP: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Azithromycin 250 mg PO 3X/WEEK (___) 
5. Calcium Carbonate 1500 mg PO DAILY:PRN heartburn 
6. Cyanocobalamin 500 mcg PO DAILY 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
8. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
9. Hydroxyurea 500 mg PO 3X/WEEK (___) 
10. Levothyroxine Sodium 25 mcg PO DAILY 
11. LORazepam 0.5 mg PO Q4H:PRN nausea/vomiting/anxiety/insomnia 

12. Montelukast 10 mg PO DAILY 
13. Rivaroxaban 20 mg PO DINNER 
14. Vitamin D ___ UNIT PO DAILY 
15. MetFORMIN (Glucophage) 1000 mg PO BID 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. esomeprazole magnesium 20 mg oral BID 
18. umeclidinium 62.5 mcg/actuation inhalation DAILY 
19. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing 
20. PredniSONE 10 mg PO DAILY 
21. Metoprolol Tartrate 25 mg PO DAILY:PRN palpitations 
22. Famotidine 20 mg PO BID:PRN dyspepsia 

 
Discharge Medications:
1.  MetFORMIN (Glucophage) 500 mg PO BID  
2.  Acyclovir 400 mg PO Q12H  
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Azithromycin 250 mg PO 3X/WEEK (___)  
7.  Calcium Carbonate 1500 mg PO DAILY:PRN heartburn  
8.  Cyanocobalamin 500 mcg PO DAILY  
9.  esomeprazole magnesium 20 mg oral BID  
10.  Famotidine 20 mg PO BID:PRN dyspepsia  
11.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies  

12.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
13.  Hydroxyurea 500 mg PO 3X/WEEK (___)  
14.  Levothyroxine Sodium 25 mcg PO DAILY  
15.  LORazepam 0.5 mg PO Q4H:PRN 
nausea/vomiting/anxiety/insomnia  
16.  Metoprolol Succinate XL 50 mg PO DAILY  
17.  Metoprolol Tartrate 25 mg PO DAILY:PRN palpitations  
18.  Montelukast 10 mg PO DAILY  
19.  PredniSONE 10 mg PO DAILY  
20.  Rivaroxaban 20 mg PO DINNER  
21.  umeclidinium 62.5 mcg/actuation inhalation DAILY  
22.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
=================
Diarrhea 

Secondary Diagnosis 
====================
JAK2+ myeloproliferative disorder
AML s/p alloHSCT in ___ c/b GVHD (pulmonary) on prednisone
MI s/p CABG
atrial fibrillation
HFrEF (EF 35%)
Thoracic aortic aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- You were admitted because you were having diarrhea at home. 

WHAT HAPPENED IN THE HOSPITAL?
- You were given fluids and your metformin was held 
- You had lab tests that ruled out an infection as the cause of 
your diarrhea.

WHAT SHOULD YOU DO AT HOME?
- Follow up with your Oncologist 
- Follow up with your PCP to work on your diabetes medications 
- Take half your metformin dose. We think your diarrhea was 
caused by the higher dose of metformin. 
-Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___